US07601716B2
2-(5-Iodo-3-nitro-pyridin-2-ylamino)-2-methyl-propionic acid methyl ester
2-Chloro-5-iodo-3-nitro-pyridine (1.61 g) was dissolved in ethanol. Methyl α-aminoisobutyrate HCl was added (2.4 eq) followed by triethylamine (2.4 eq). The reaction mixture was heated to 150° C. in a microwave oven for 30 minutes. The reaction mixture was concentrated to dryness and triturated with H2O. Silica gel chromatography of the resulting brown solid afforded the title compound as a bright yellow crystalline solid (78% yield based on recovered starting material). M.p. 121-122° C., 1H-NMR (CDCl3, 400 MHz) δ 1.56 (s, 3H), 1.66 (s, 3H), 3.67 (s, 3H), 8.53 (s, 1H), 8.47 (d, J=2.0 Hz, 1H), 8.68 (d, J=2.3 Hz, 1H).

reactant | 2-Chloro-5-iodo-3-nitro-pyridine | 1.61 g | ClC1=NC=C(C=C1[N+](=O)[O-])I | C5H2ClIN2O2
reactant | Methyl α-aminoisobutyrate HCl | Cl.NC(C(=O)OC)(C)C
reactant | triethylamine | 2.4 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 2-(5-Iodo-3-nitro-pyridin-2-ylamino)-2-methyl-propionic acid methyl ester | 78% yield | COC(C(C)(C)NC1=NC=C(C=C1[N+](=O)[O-])I)=O | C10H12IN3O4
